US05053509
(RS)-3-Ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-8-[3-(2-thienyl)-1-piperazinyl]-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 39, but starting with 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.59 g) and (RS)-2-(2-thienyl)piperazine (1.02 g). (RS)-3-Ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-8-[3-(2-thienyl)-1-piperazinyl ]-1,4-dihydrobenzo[b][1,8]naphthyridine (2.25 g) is obtained in the form of a yellow solid, m.p. 228° C.

reactant | 3-ethoxycarbonyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.59 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O | C16H12F2N2O3
reactant | (RS)-2-(2-thienyl)piperazine | 1.02 g | S1C(=CC=C1)C1NCCNC1 | C8H12N2S
product | (RS)-3-Ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-8-[3-(2-thienyl)-1-piperazinyl ]-1,4-dihydrobenzo[b][1,8]naphthyridine | 2.25 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)N3CC(NCC3)C=3SC=CC3)=O | C24H23FN4O3S
